US07381719B2
Part C1: 5-Fluoropyridine-2-carboxamide
Take up 5-Fluoropyridine-2-carboxylic acid (3.82 g, 27.1 mmol) in THF (67.7 mL). Add N-hydroxysuccinimide (3.43 g, 29.8 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.71 g, 29.8 mmol). Add DMF (15 mL) to dissolve the gum formed. Stir for 3 hours at room temperature before adding ammonium chloride (2.17 g, 40.6 mmol). Bubble in ammonia gas for five minutes. Seal the reaction vessel and stir the reaction mixture overnight before concentrating. Take the solid up in water (150 mL) and extract with ethyl acetate (4×225 mL). Dry the organic layer over Na2SO4, filter and concentrate. Purify by flash chromatography, eluting with 25% ethyl acetate, 1% (2.0 M NH3 in methanol) and 74% dichloromethane to give the title compound (3.06 g, 80.7%): TOF MS EI+ 140.0 (M)+, TOF MS EI+ 97.0 (M+B—CONH2), HRMS calcd for C6H5N2OF 140.0386, found 140.0394, time 3.4 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 5-95% over 19 min], tR=7.1 min, 100% purity.

reactant | 5-Fluoropyridine-2-carboxylic acid | 27.1 mmol, 3.82 g | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
reactant | N-hydroxysuccinimide | 29.8 mmol, 3.43 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 29.8 mmol, 5.71 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonium chloride | 40.6 mmol, 2.17 g | [Cl-].[NH4+]
solvent | THF | 67.7 mL | C1CCOC1 | C4H8O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-Fluoropyridine-2-carboxamide | 3.06 g, 80.7% | FC=1C=CC(=NC1)C(=O)N | C6H5FN2O
